US09193694B2
4-benzyl-1-methyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (Compound X-11)
4-Benzyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (9.80 mg, 0.024 mmol) and K2CO3 (10 mg, 0.072 mmol, 3.0 equiv.) were placed in a 0.5-2 mL Smith process vial under a nitrogen atmosphere. To the vial were added DMF (0.5 mL) and iodomethane (2.25 μL, 0.036 mmol, d=2.28 g/cm3, 1.5 equiv) at room temperature. After heating, stirred, at 60° C. for 2 hours, the reaction mixture was concentrated en vacuo. The resulting crude mixture was diluted with acetonitrile (1 mL), filtered through a syringe filter and injected into a preparative HPLC to give desired product (4-benzyl-1-methyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione, 1.8 mg) as a yellow film.

reactant | 4-Benzyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 0.024 mmol, 9.80 mg | C(C1=CC=CC=C1)N1CC(NC2=C(C1=O)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)=O | C23H17F3N2O2
reactant | K2CO3 | 0.072 mmol, 10 mg, 3.0 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.036 mmol, 2.25 μL, 1.5 equiv | IC | CH3I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-benzyl-1-methyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 1.8 mg | C(C1=CC=CC=C1)N1CC(N(C2=C(C1=O)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C)=O | C24H19F3N2O2
